US04472383
N-[1(S)-Ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester (1.8 g) is dissolved in 2 ml of acetic acid, and 3 ml of 30% hydrogen bromide in acetic acid is added. The mixture is reacted at room temperature for 10 minutes. The reaction mixture is shaken with 300 ml of ether and allowed to stand. The ether is then decanted off and to the precipitate is added ethyl acetate, whereby 1.35 g of N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine hydrobromide is obtained as colorless prisms melting at 177°-181° C. (decomposition).

reactant | N-[1(S)-Ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester | 1.8 g | C(C)(C)(C)OC([C@@H](NC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)C)=O)=O)CC1=CC=CC=C1)=O | C39H49N3O6
reactant | hydrogen bromide | 3 ml | Br | BrH
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine hydrobromide | 1.35 g | Br.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C35H41N3O6.BrH/c1-3-44-35(43)30(19-18-25-12-6-4-7-13-25)36-24(2)33(40)38(29-21-27-16-10-11-17-28(27)22-29)23-32(39)37-31(34(41)42)20-26-14-8-5-9-15-26;/h4-17,24,29-31,36H,3,18-23H2,1-2H3,(H,37,39)(H,41,42);1H/t24-,30-,31-;/m0./s1
